US06136852
Ethyl 4-pentenoate (317 mg) was dissolved in tetrahydrofuran (5 ml), and 9-borabicyclo[3.3.1]nonane (302 mg) was added to the solution. After reaction for 15 hours at room temperature with stirring, 1,4-dioxane (9 ml), (S)-2-(tert-butoxycarbonylamino)-1,2,3,4-tetrahydronaphthalen-7-yl trifluoromethanesulfonate (890 mg), tetrakis(triphenylphosphine)palladium (0) (65 mg) and potassium phosphate (716 mg) were added to the reaction mixture, followed by reaction for 15 hours at 85° C. with stirring. Water was added to the reaction mixture, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, then the solvent was removed in vacuo. Purification by medium pressure liquid column chromatography on silica gel (eluent: dichloromethane) and sequential recrystallization from hexane of the residue gave ethyl (S)-5-[2-(tert-butoxycarbonylamino)-1,2,3,4-tetrahydronaphthalen-7-yl]valerate (387 mg) having a melting point of 65-67° C.

reactant | Ethyl 4-pentenoate | 317 mg | C(CCC=C)(=O)OCC | C7H12O2
reactant | 9-borabicyclo[3.3.1]nonane | 302 mg | C12CCCC(CCC1)B2 | C8H15B
reactant | (S)-2-(tert-butoxycarbonylamino)-1,2,3,4-tetrahydronaphthalen-7-yl trifluoromethanesulfonate | 890 mg | FC(S(=O)(=O)OC1=CC=C2CC[C@@H](CC2=C1)NC(=O)OC(C)(C)C)(F)F | C16H20F3NO5S
reactant | potassium phosphate | 716 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 65 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | O | H2O
solvent | 1,4-dioxane | 9 ml | O1CCOCC1 | C4H8O2
product | ethyl (S)-5-[2-(tert-butoxycarbonylamino)-1,2,3,4-tetrahydronaphthalen-7-yl]valerate | 387 mg | C(C)(C)(C)OC(=O)N[C@@H]1CC2=CC(=CC=C2CC1)CCCCC(=O)OCC | C22H33NO4
